US07087579B2
To a solution of 4-cyclopropylbenzaldehyde (0.71 g) in methanol (10 mL) was added lithium borohydride (2 mol/L tetrahydrofuran solution, 3.7 mL), and the mixture was warmed to room temperature and stirred for 30 minutes. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The organic layer was washed with 1 mol/L hydrochloric acid solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give 4-cyclopropylbenzyl alcohol (0.69 g).

reactant | 4-cyclopropylbenzaldehyde | 0.71 g | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | lithium borohydride | 2 mol/L, 3.7 mL | [BH4-].[Li+]
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 4-cyclopropylbenzyl alcohol | 0.69 g | C1(CC1)C1=CC=C(CO)C=C1 | C10H12O
